US04305946
7 g of 5-nitro-pyridine-2-thiol are suspended in acetone, and 5 g of potassium carbonate are added. There are then added 6 g of 3-bromopropine-1, and, after the exothermic reaction has finished, the reaction mixture is refluxed for about 30 minutes. The solution obtained is poured onto ice, and the precipitate occurring is filtered off. The crude product is purified by recrystallisation from methanol to yield 2-propargylthio-5-nitropyridine, m.p. 98°-99.5° C.

reactant | 5-nitro-pyridine-2-thiol | 7 g | [N+](=O)([O-])C=1C=CC(=NC1)S | C5H4N2O2S
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | CC(=O)C | C3H6O
product | 2-propargylthio-5-nitropyridine | C(C#C)SC1=NC=C(C=C1)[N+](=O)[O-] | C8H6N2O2S
